US05968958
A mixture of 5-chloro-4-nitro-2-methylbenzonitrile (32.0 g, 0.16 mol), NBS (54.0 g, 0.30 mol) and benzoyl peroxide (200 mg, catalytic amount) in chlorobenzene was heated at 130° C. and irradiated with a sunlamp for 15 h. More NBS (30.0 g, 0.17 mol) and benzoyl peroxide (200 mg) were added. The mixture was further reacted for 24 h. After cooling, the precipitate formed was filtered off and washed with CH2Cl2. The combined filtrates were washed with H2O (2×), dried over anhydrous MgSO4 and concentrated in vacuo. The residue was then chromatographed over silica gel and eluted with hexanes:EtOAc (9:1) to give 2-bromomethyl-5-chloro-4-nitrobenzonitrile (48 g, contaminated with starting material and dibrominated product) as a pale yellow solid.

reactant | 5-chloro-4-nitro-2-methylbenzonitrile | 0.16 mol, 32.0 g | ClC=1C(=CC(=C(C#N)C1)C)[N+](=O)[O-] | C8H5ClN2O2
reactant | NBS | 0.30 mol, 54.0 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | NBS | 0.17 mol, 30.0 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
catalyst | benzoyl peroxide | 200 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
catalyst | benzoyl peroxide | 200 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-bromomethyl-5-chloro-4-nitrobenzonitrile | 48 g | BrCC1=C(C#N)C=C(C(=C1)[N+](=O)[O-])Cl | C8H4BrClN2O2
